US07645771B2
N-(8-Benzyl-8-azabicyclo[3.2.1]oct-3-yl)benzene-1,2-diamine
2.92 g (9.04 mmol) 8-benzyl-N-(2-nitrophenyl)-8-azabicyclo[3.2.1]octan-3-amine was dissolved in 150 ml EtOAc and 25 ml Methanol. 1 g Pd/C was then added and the mixture was stirred at 1 atm H2 for 3.5 hrs. Yellow color disappeared and the reaction mixture was filtered through celite. The solvent was removed to afford 2.2 g of desired solid.

reactant | 8-benzyl-N-(2-nitrophenyl)-8-azabicyclo[3.2.1]octan-3-amine | 9.04 mmol, 2.92 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)NC2=C(C=CC=C2)[N+](=O)[O-] | C20H23N3O2
solvent | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
solvent | Methanol | 25 ml | CO | CH4O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | N-(8-Benzyl-8-azabicyclo[3.2.1]oct-3-yl)benzene-1,2-diamine | 2.2 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)NC=2C(=CC=CC2)N | C20H25N3
